US07544812B2
2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-1-quinolin-2-ylmethyl-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid
The titled compound was prepared using 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid methyl Ester (0.100 g, 0.287 mmole) and 2-chloromethyl-quinoline (0.092 g, 0.431 mmole) to produce an oil (0.023 g, 17%). Mass [EI+] 476 (M+H)+, [EI−] 474 (M−H)−.

reactant | 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid methyl Ester | 0.287 mmole, 0.100 g | COC(C(C)(OC1=C(C=C(C=C1)CCCC1N(C(NC1)=O)C)C)C)=O | C19H28N2O4
reactant | 2-chloromethyl-quinoline | 0.431 mmole, 0.092 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
product | 2-Methyl-2-{2-methyl-4-[3-(3-methyl-2-oxo-1-quinolin-2-ylmethyl-imidazolidin-4-yl)-propyl]-phenoxy}-propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)CCCC1N(C(N(C1)CC1=NC2=CC=CC=C2C=C1)=O)C)C | C28H33N3O4
